US06316444B1
Step D: 2-[1-(1-Benzyl-4-(N-naphth-1-yl-carbamoyl)piperazine-2-yl)-ethylamino]-4-[benzimidazol-1-yl]-pyrimidine
To a solution of 2-[1-(4-(tert-butyloxycarbonyl)-piperazine-2-yl)-ethylamino]-4-(benzimidazol-1-yl)-pyrimidine (2 mg) in 0.5 mL of DMF was added benzyl bromide (1.1 μL) and K2CO3 (1.3 mg). The mixture was stirred overnight at room temperature, then diluted with 5 mL of EtOAc and poured into 10 mL of 1N HCl. The phases were separated and the aqueous phase was basified (pH>11) with 5N NaOH and extracted with 4×5 mL of EtOAc. The combined organics were dried over Na2SO4 and concentrated. The residue was dissolved in 0.5 mL of CH2Cl2 and 0.25 mL of trifluoroacetic acid was added. The mixture was stirred for 2 h at room temperature, then concentrated. The residue was dissolved in 0.5 mL of pyridine and naphthyl isocyanate (1 μL) was added. The mixture was stirred overnight at room temperature, then co-concentrated with heptane. The residue was purified by preparative thin-layer chromatography, eluting with 95:5 CH2Cl2—MeOH to provide 0.9 mg of the title compound. Mass spectrum (ESI) 583.5 (M+1).

reactant | 2-[1-(4-(tert-butyloxycarbonyl)-piperazine-2-yl)-ethylamino]-4-(benzimidazol-1-yl)-pyrimidine | 2 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C22H29N7O2
reactant | benzyl bromide | 1.1 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 1.3 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N, 10 mL | Cl | ClH
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-[1-(1-Benzyl-4-(N-naphth-1-yl-carbamoyl)piperazine-2-yl)-ethylamino]-4-[benzimidazol-1-yl]-pyrimidine | 0.9 mg | C(C1=CC=CC=C1)N1C(CN(CC1)C(NC1=CC=CC2=CC=CC=C12)=O)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C35H34N8O
